US04677129
(a) 3-allyl-1-(4-aminophenyl)-3-azabicyclo[3.1.1]heptane-2.4-dione
A mixture of 1.97 g of 3-allyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione and 5.2 g of tin powder in 14 ml of water and 14 ml of concentrated hydrochloric acid is stirred at 100° for 1.5 hours. After cooling to room temperature, the reaction mixture is diluted with a little water, filtered and rendered alkaline by the addition of sodium hydroxide solution. The reaction mixture is extracted with ethyl acetate, and the organic phase is washed neutral with dilute sodium chloride solution, dried over magnesium sulphate and concentrated by evaporation. Melting point 176°-178° (from ethyl acetate/petroleum ether).

reactant | 3-allyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione | 1.97 g | C(C=C)N1C(C2(CC(C1=O)C2)C2=CC=C(C=C2)[N+](=O)[O-])=O | C15H14N2O4
reactant | tin | 5.2 g | [Sn] | Sn
solvent | water | 14 ml | O | H2O
solvent | hydrochloric acid | 14 ml | Cl | ClH
product | 3-allyl-1-(4-aminophenyl)-3-azabicyclo[3.1.1]heptane-2.4-dione | C(C=C)N1C(C2(CC(C1=O)C2)C2=CC=C(C=C2)N)=O | C15H16N2O2
